US09421205B2
(f) tert-Butyl 2-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I41)
tert-Butyl 2-(4-((4-((2-(2-amino-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I40) (0.120 g, 0.207 mmol) was dissolved in dry DMF (5 mL) under an atmosphere of nitrogen. 20% Pearlman's catalyst (0.060 g) in EtOAc (5 mL) was added to the solution and the atmosphere was changed to hydrogen gas (balloon). The reaction was sealed with a balloon and stirred at room temperature for 20 hours at room temperature. The catalyst was removed by filtration through Celite, which was washed with EtOAc (5×10 mL). The solvent was removed in vacuo to give a pale yellow gum which was purified by silica gel chromatography (Biotage, Isolera 12 g Si Cartridge, 0-100% EtOAc in petroleum benzine 40-60° C.) to give the title compound (I41) (0.090 g, 74% yield) as a pale yellow solid; 1H NMR (400 MHz, d6-DMSO) δ 10.20 (s, 1H), 8.67 (s, 1H), 7.73 (d, J=8.7 Hz, 2H), 7.43 (s, 1H), 7.26-7.21 (m, 1H), 7.20-7.09 (m, 5H), 6.89 (s, 1H), 5.31-5.19 (m, 1H), 3.92 (d, J=13.2 Hz, 1H), 3.49 (s, 2H), 3.16-2.98 (m, 4H), 2.71 (t, J=11.8 Hz, 1H), 2.29 (d, J=13.2 Hz, 1H), 1.75 (t, J=11.0 Hz, 1H), 1.58-1.50 (m, 2H), 1.46-1.23 (m, 11H). LCMS Method C: rt 6.59 min; m/z 584.3 [M+H]+.

reactant | tert-Butyl 2-(4-((4-((2-(2-amino-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.207 mmol, 0.120 g | NC(CC1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1N(CCCC1)C(=O)OC(C)(C)C)=O | C31H32F3N5O3
reactant | hydrogen | [H][H] | H2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pearlman's catalyst | 0.060 g | [OH-].[OH-].[Pd+2]
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl 2-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.090 g, 74% yield | NC(CC1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=CC=C(C=C2)C2N(CCCC2)C(=O)OC(C)(C)C)C=CC=C1)=O | C31H36F3N5O3
